US07176212B2
4-(2-Fluoro-5-methylanilino)-2-[4-(3-morpholinopropoxy)anilino]pyrimidine
4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine (Reference Example A-10, 140 mg, 0.6 mmol) was dissolved in dry NMP (2 ml) and 4-(3-morpholinopropoxy)aniline.2.HBr salt (see CAS Registry No. 100800–40–6; J.Am.Chem.Soc., 76, 1954, 4396; 188 mg, 0.5 mmol) added. The mixture was stirred at ambient temperature for 5 minutes, then checked to ensure the reaction mixture was acidic (pH 1) and heated at 100° C. for 3 hours. The mixture was allowed to cool and evaporated to dryness to give an oil. Silica (2 g) and DCM (10 ml) were added and the mixture then re-evaporated to dryness and purified by chromatography on a Mega Bond Elute column (10 g) (eluting with DCM (2×25 ml), 2% NH3 in MeOH (3×25 ml), 4% NH3 in MeOH (3×25 ml), 6% NH3 in MeOH (3×25 ml), 10% NH3 in MeOH (9×25 ml)) to give the title product as a colourless oil, which was triturated with diethyl ether to give a white solid (95 mg, 46%). NMR (300 MHz): 1.8 (m, 2H), 2.2 (s, 3H), 2.4 (m, 4H), 2.4 (m, 2H), 3.6 (t, 3H), 3.9 (t, 2H), 6.2 (d, 1H), 6.8 (d, 2H), 6.9 (m, 1H), 7.1 (m, 1H), 7.5 (d, 2H), 7.8 (d, 1H), 8.0 (d, 1H), 8.9 (s, 2H); m/z: (ES+) 438.2 (MH+).

reactant | 4-(2-Fluoro-5-methylanilino)-2-chloropyrimidine | 0.6 mmol, 140 mg | FC1=C(NC2=NC(=NC=C2)Cl)C=C(C=C1)C | C11H9ClFN3
reactant | HBr | Br | BrH
reactant | DCM | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 4-(3-morpholinopropoxy)aniline | O1CCN(CC1)CCCOC1=CC=C(N)C=C1 | C13H20N2O2
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 4-(2-Fluoro-5-methylanilino)-2-[4-(3-morpholinopropoxy)anilino]pyrimidine | FC1=C(NC2=NC(=NC=C2)NC2=CC=C(C=C2)OCCCN2CCOCC2)C=C(C=C1)C | C24H28FN5O2
